US07332485B2
(3S,5R)-1-(Benzyloxyimino-Methyl)-3,5-Dimethyl-Cyclohexanecarboxylic Acid Methyl Ester
A mixture of (3S,5R)-1-formyl-3,5-dimethyl-cyclohexanecarboxylic acid methyl ester (5.5 g, 27.8 mmol), sodium acetate (4.57 g, 55.6 mmol) and O-benzylhydroxylamine hydrochloride (8.88 g, 55.6 mmol) were stirred in methanol (100 mL) for 18 h. The methanol was removed in vacuo, water (100 mL) was added and the aqueous phase was extracted with EtOAc (50 mL×5). The combined organic extracts were dried (MgSO4) and were evaporated in vacuo. The residue was purified by flash column chromatography using an eluting system of hexane/EtOAc (99:1) to yield the title compound as a clear yellow oil (4.8 g, 57%). MH+304.

reactant | (3S,5R)-1-formyl-3,5-dimethyl-cyclohexanecarboxylic acid methyl ester | 27.8 mmol, 5.5 g | COC(=O)C1(C[C@H](C[C@H](C1)C)C)C=O | C11H18O3
reactant | sodium acetate | 55.6 mmol, 4.57 g | C(C)(=O)[O-].[Na+]
reactant | O-benzylhydroxylamine hydrochloride | 55.6 mmol, 8.88 g | Cl.C(C1=CC=CC=C1)ON
solvent | methanol | 100 mL | CO | CH4O
product | (3S,5R)-1-(Benzyloxyimino-Methyl)-3,5-Dimethyl-Cyclohexanecarboxylic Acid Methyl Ester | 4.8 g, 57% | COC(=O)C1(C[C@H](C[C@H](C1)C)C)C=NOCC1=CC=CC=C1 | C18H25NO3
